### PR TITLE
feat: `BitVec.toInt_srem`

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR adds the `BitVec.toInt_srem` lemma, relating `BitVec.srem` with `Int.tmod`.

### CODE REVIEW

**Comment by Rob23oba** [comment]
changelog-library

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1648,7 +1648,95 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
     conv => lhs; rw [(by omega: w = (w - 1) + 1)]
     simp [Nat.pow_succ, Int.natCast_pow, Int.mul_comm]
   · rw [← toInt_bmod_cancel]
-    rw [BitVec.toInt_sdiv_of_ne_or_ne _ _ (by simpa only [Classical.not_and_iff_not_or_not] using h)]
+    rw [BitVec.toInt_sdiv_of_ne_or_ne _ _ (by simpa only [Decidable.not_and_iff_not_or_not] using h)]
+
+theorem BitVec.toNat_intMin_of_pos (hw : 0 < w) : (intMin w).toNat = 2 ^ (w - 1) := by
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Bitblast.lean:1653]: All of these are currently named `BitVec.BitVec.stuff`.

Comment (TwoFX) [inline src/Init/Data/BitVec/Bitblast.lean:1653]: Most of these lemmas probably have a better home further up in this file or somewhere in `Lemmas.lean`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -1648,7 +1648,95 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
...
+    omega
+
+theorem BitVec.msb_umod_eq_false_of_left {x : BitVec w} (hx : x.msb = false) (y : BitVec w) : (x % y).msb = false := by
+  rw [msb_eq_false_iff_two_mul_lt] at hx ⊢
+  rw [toNat_umod]
+  refine Nat.lt_of_le_of_lt ?_ hx
+  rw [Nat.mul_le_mul_left_iff (by decide)]
+  exact Nat.mod_le _ _
+
+theorem BitVec.width_pos_of_ne {x y : BitVec w} (h : x ≠ y) : 0 < w := by
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Bitblast.lean:1696]: I think the `w` parameter is currently usually referred to as `length` in identifiers?

**Comment by tobiasgrosser** [comment]
Nice. Thank you, @Rob23oba. These are elegant proofs. As @TwoFX said, please move the theorems into the relevant files. I am happy to help.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 1 above)
Comment (Rob23oba) [reply src/Init/Data/BitVec/Bitblast.lean]: oops, yeah, fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (Rob23oba) [reply src/Init/Data/BitVec/Bitblast.lean]: Oh, thanks, didn't notice

**Comment by Rob23oba** [comment]
I moved most of the theorems to `Lemmas.lean` now and added some related lemmas.

**Review by tobiasgrosser — APPROVED** [review]
LGTM. Thank you!

**Review by TwoFX — APPROVED** [review]
Thanks!
